US07592477B2
Step e) Formation of N-dodecyl-5-({[4-(trifluoromethyl)benzyl]amino}methyl)thiophene-2-sulfonamide
To a solution of 5-(aminomethyl)-N-dodecylthiophene-2-sulfonamide (797 mg, 2.21 mmol) and 4-trifluoromethyl-benzaldehyde (350 mg, 2.01 mmol) in DCE (50 mL) was added at once NaBH(OAc)3 (596 mg, 2.81 mmol) and the resulting mixture was stirred overnight at rt. 30 mL of a saturated aqueous solution of NaHCO3 were added to the reaction mixture, the aqueous layer was separated and washed with DCM (3×200 mL). The combined organic layers were dried over MgSO4, filtered and concentrated to afford a yellowish oil. This crude product was purified by column chromatography over silica gel (AcOEt/c-Hex 1/4 to 1/2 in about 1 h) to give the title compound as a colorless oil (675 mg, 64%). 1H NMR (CDCl3, 300 MHz) δ 7.60 (m, 2H), 7.46 (m, 2H), 7.37 (d, 0.7H, J=8.0 Hz), 6.88 (d, 1H, J=3.8 Hz), 4.00 (s, 2H), 3.90 (s, 2H), 3.02 (m, 2H), 1.85-1.55 (m, 2H), 1.5 (m, 2H), 1.22 (s, 18H), 0.87 (t, 3H, 6.6 Hz). M−(LC/MS (ESI)): 517.2; M+(LC/MS (ESI)): 519.2 HPLC (Condition A), Rt: 5.27 min (HPLC purity: 97.2%).

reactant | 5-(aminomethyl)-N-dodecylthiophene-2-sulfonamide | 2.21 mmol, 797 mg | NCC1=CC=C(S1)S(=O)(=O)NCCCCCCCCCCCC | C17H32N2O2S2
reactant | 4-trifluoromethyl-benzaldehyde | 2.01 mmol, 350 mg | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | NaBH(OAc)3 | 2.81 mmol, 596 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | N-dodecyl-5-({[4-(trifluoromethyl)benzyl]amino}methyl)thiophene-2-sulfonamide | 675 mg, 64% | C(CCCCCCCCCCC)NS(=O)(=O)C=1SC(=CC1)CNCC1=CC=C(C=C1)C(F)(F)F | C25H37F3N2O2S2
